2108-07-10 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - SBPs in 90s all night, found to be in 70s in the AM, bolused 500cc
   NS, with BP returning to 90s.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-7-9**] 11:40 PM
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Ceftriaxone - [**2108-7-10**] 12:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-10**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 61 (61 - 75) bpm
   BP: 74/32(42) {74/32(42) - 122/52(66)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                     42 mL
                                                                  1,381 mL
   PO:
             TF:
   IVF:
                                                                     42 mL
                                                                  1,381 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    380 mL
   Urine:
                                                                    320 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -278 mL
                                                                  1,001 mL
   Respiratory support
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Elderly woman lying in bed, no acute distress
   HEENT Sclera anicteric, Dry MM
   Neck JVD
   Pulm Lungs with few bilateral rales (patient's cooperation is limited)
   CV Irregularly irregular S1 S2 no m/r/g
   Abd Soft +bowel sounds mild tender LLQ, guiac+ in ER
   Extrem Warm no edema, palpable distal pulses
   Neuro Opens eyes to voice, tracks, follows commands intermittently.
   Wiggles toes to command.
   Derm Mild erythema near sacrum
   Labs / Radiology
   310 K/uL
   10.3 g/dL
   123 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   6 mg/dL
   105 mEq/L
   136 mEq/L
   31.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
   WBC
   8.6
   Hct
   31.8
   Plt
   310
   Cr
   0.4
   Glucose
   123
   Other labs: Mg++:2.2 mg/dL
   C diff
 positive
   UCx pending
   BCx pending
   Assessment and Plan
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   98 Russian speaking female presents with lethargy and fever.
   .
   * Lethargy
   Probably due to infection, dehydration.
   - Treat C diff diarrhea and ?UTI as below
   - Continue IVF overnight
   - Follow neuro exam. Will hold on neuroimaging tonight, no localizing
   deficits.
   .
   * Diarrhea
   Patient is positive for C diff.  Patient has had multiple other
   occurrences of C diff colitis that recurred despite metronidazole
   treatment, so will continue with PO vancomycin.
   - PO vancomycin - Family cannot verify ?allergy in OMR. Systemic
   absorption is minimal
   - HOLD on further antimotility agents
   .
   * Hypotension
 patient is clinically dry, likely secondary to losses
   from diarrhea.  Hypotension is responsive to fluids
   - bolus IVF as needed
   .
   * Question UTI
 Mild pyuria found on on urinalysis.
   - not cooperative with PO bactrim, will cover with IV ceftrixone for
   now.  If UCx returns negative, ceftriaxone can be stopped
   .
   * Pleural effusions
   CXR shows bilateral effusions. Cause uncertain, recent echo fairily
   unremarkable. She did have a left sided effusion on [**6-28**] CXR. With her
   history of breast cancer, malignancy is a possibility. Think infection
   is less likely.
   - Consider diagnostic thoracentesis
   .
   * Atrial fibrillation
   Not on anticoagulation as an outpatient.
   - Continue ASA daily
   .
   * Hypertension
   - Hold home antihypertensives for now as patient is currently
   hypotensive, may reintroduce if BP stabilizes
   ICU Care
   Nutrition: regular (thickened)
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2108-7-9**] 09:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  Son
   [**Name (NI) 129**] status: Full code
   Disposition: Transfer to floor once BP is stabilized

2108-07-10 10:57:00 Physician Attending Progress Note
Chief Complaint:  C diff colitis, hypotension, pleural effusions
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   In MICU overnight, she was hemodynamically stable, although required
   one bolus of fluid this AM for BP 70-80's. Oxygenation good on minimal
   supplemental oxygen.
   Afebrile. WBC normal.
   Urine output about 30 cc/hr
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-7-9**] 11:40 PM
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Ceftriaxone - [**2108-7-10**] 12:32 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-10**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (97
   HR: 65 (61 - 75) bpm
   BP: 101/36(53) {74/32(42) - 122/53(68)} mmHg
   RR: 24 (17 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                     42 mL
                                                                  1,542 mL
   PO:
             TF:
   IVF:
                                                                     42 mL
                                                                  1,542 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    510 mL
   Urine:
                                                                    320 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -278 mL
                                                                  1,032 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Scattered, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffusely, No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): Not able to assess; language barrier,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   10.3 g/dL
   310 K/uL
   123 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   6 mg/dL
   105 mEq/L
   136 mEq/L
   31.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
   WBC
   8.6
   Hct
   31.8
   Plt
   310
   Cr
   0.4
   Glucose
   123
   Other labs: Mg++:2.2 mg/dL
   Imaging: CXR: Bilateral pleural effusions. Some evidence of increased
   interstitial edema
   Assessment and Plan
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   ==============
   Treatment started for c diff coliitis. Given hx of recurrent infection,
   being treated with vanco and flagyl.
   BP remains low. Will give additional fluid to point that urine output >
   40 cc/hour.
   Heart rate elevated in afib with decreased BP. Will monitor for
   response to fluids.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-7-9**] 09:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2108-07-11 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Flagyl added for C diff
   - Pt had UOP of 15-20cc/hr in the PM, was given 500cc bolus
 UOP 30-40
   cc/hr
   - started on NS maintance of BP for concerns of low BP of 80s/30s with
   MAP 47. After receiving ~300cc fluid, pt desatted to 89% 2L NC,
   increased to 4L NC.  Fluids stopped, but no lasix given hypotension.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Ceftriaxone - [**2108-7-10**] 12:32 AM
   Metronidazole - [**2108-7-11**] 12:43 AM
   Vancomycin - [**2108-7-11**] 05:53 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-11**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 74 (55 - 79) bpm
   BP: 135/64(83) {77/29(40) - 135/72(83)} mmHg
   RR: 19 (11 - 35) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63 kg (admission): 56.1 kg
   Height: 63 Inch
             Total In:
                                                                  3,676 mL
                                                                    309 mL
   PO:
             TF:
   IVF:
                                                                  3,676 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    230 mL
   Urine:
                                                                    860 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,816 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Elderly woman lying in bed, no acute distress
   HEENT Sclera anicteric, Dry MM
   Neck JVD
   Pulm Lungs with few bilateral rales (patient's cooperation is limited)
   CV Irregularly irregular S1 S2 no m/r/g
   Abd Soft +bowel sounds mild tender LLQ, guiac+ in ER
   Extrem Warm no edema, palpable distal pulses
   Neuro Opens eyes to voice, tracks, follows commands intermittently.
   Wiggles toes to command.
   Derm Mild erythema near sacrum
   Labs / Radiology
   298 K/uL
   9.9 g/dL
   92 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   5 mg/dL
   109 mEq/L
   137 mEq/L
   31.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
                             [**2108-7-11**]  05:43 AM
   WBC
   8.6
   6.3
   Hct
   31.8
   31.4
   Plt
   310
   298
   Cr
   0.4
   0.5
   Glucose
   123
   92
   Other labs: PT / PTT / INR:13.8/28.2/1.2, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   BCx, Ucx
 pending
   CXR
 supine film, bilateral pleural effusions
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   98 [**Year (4 digits) **] speaking female presents with lethargy and fever.
   .
   * Hypotension
 patient was admitted clinically dry likely secondary to
   losses from diarrhea.  Blood pressure responded to IVF boluses, was
   placed on maintenance fluids.  Overnight patient desaturated, crackles
   heard on lungs, CXR still shows b/l pleural effusions, may be due to
   volume overload.  IVF stopped.  BP currently 120s, but pt has a higher
   oxygen requirement
   - consider gentle diuresis if pt having difficulty breathing
   .
   * Pleural effusions - CXR shows bilateral effusions. Cause uncertain,
   recent echo fairily unremarkable. She did have a left sided effusion on
   [**6-28**] CXR. With her history of breast cancer, malignancy is a
   possibility. Think infection is less likely.
   - Consider therapeutic and diagnostic thoracentesis if breathing
   worsens
   .
   * Diarrhea
 Pt is positive for C. diff, has had other occurrences of C
   diff colitis that recurred despite metronidazole treatment, so will
   continue with PO vancomycin.  Diarrhea has improved.
   - continue PO vancomycin - Family cannot verify ?allergy in OMR.
   Systemic absorption is minimal
   - d/c IV flagyl
   - flexiseal for fecal management
   - hold any antimotility agents
   .
   * Lethargy
 As per son, patient has much improved.  Much more awake
   and cooperative with physical exams.  Lethargy likely due to C. diff
   infection, dehydration from diarrhea.
   - continue vancomycin for C diff diarrhea
   - daily neuro exams, no localizing deficits, no imaging for now.
   .
   * Questionable UTI
 Mild pyuria found on on urinalysis.
   - urine culture is negative, d/c ceftiaxone
   .
   * Atrial fibrillation - Not on anticoagulation as an outpatient.  HR
   has been in a good range
   - Continue ASA daily
   .
   * Hypertension
   - Hold home medication of atenolol for now as patient is currently
   hypotensive, may reintroduce if BP stabilizes
   .
   # Social work
 patient
s son asking for [**Name (NI) **] interpreter to help in
   discussion of what he should expect when he brings pt home.
   - SW consult
   - PT consult
   ICU Care
   Nutrition: regular, thickened
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-7-11**] 12:53 AM
   20 Gauge - [**2108-7-11**] 12:54 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: not indicated
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:  Son
   [**Name (NI) 129**] status: Full code
   Disposition: call out to floor

2108-07-11 11:19:00 Physician Attending Progress Note
Chief Complaint: C diff colitis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Given fluids yesterday to support urine output. Was then put on
   maintenance fliud but O2 sats declined. Fluids stopped. BP 105-120 this
   AM.
   Afebrile.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Vancomycin - [**2108-7-11**] 05:53 AM
   Ceftriaxone - [**2108-7-11**] 07:38 AM
   Metronidazole - [**2108-7-11**] 07:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-7-11**] 07:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-11**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 73 (58 - 79) bpm
   BP: 123/60(73) {82/35(47) - 135/72(83)} mmHg
   RR: 28 (11 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63 kg (admission): 56.1 kg
   Height: 63 Inch
             Total In:
                                                                  3,676 mL
                                                                    476 mL
   PO:
             TF:
   IVF:
                                                                  3,676 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    320 mL
   Urine:
                                                                    860 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,816 mL
                                                                    156 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Contracted
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Non dependent lungs, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Not able to assess; language, Movement:
   Purposeful, No(t) Sedated, Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   298 K/uL
   92 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.5 mEq/L
   5 mg/dL
   109 mEq/L
   137 mEq/L
   31.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
                             [**2108-7-11**]  05:43 AM
   WBC
   8.6
   6.3
   Hct
   31.8
   31.4
   Plt
   310
   298
   Cr
   0.4
   0.5
   Glucose
   123
   92
   Other labs: PT / PTT / INR:13.8/28.2/1.2, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: supine film. Left effusion. Interstitial and alveolar
   infiltrates in mid and upper zones.
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   ANEMIA
   =================================
   AFebrile. No significant diarrhea. Continues on treatment for c diff.
   BP better thi s AM after fluids given yesterday. CXR suggests volume
   overload, but oxygenation is good now and exam is relatively
   unimpressive. Would keep fluid balance even.
   Hct stable.  No evidence of active bleeding.
   Suggest social service and rehab consults to help patient's family
   address home care issues.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-7-11**] 12:53 AM
   20 Gauge - [**2108-7-11**] 12:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2108-07-12 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Waiting for bed.
   Desaturates to high 80
s on RA.
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Metronidazole - [**2108-7-11**] 07:38 AM
   Ceftriaxone - [**2108-7-11**] 07:38 AM
   Vancomycin - [**2108-7-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-7-12**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 70 (67 - 87) bpm
   BP: 125/44(66) {92/38(57) - 153/73(91)} mmHg
   RR: 28 (7 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63 kg (admission): 56.1 kg
   Height: 63 Inch
                  Total In:
                                                                    796 mL
                                                                    105 mL
   PO:
                                                                    300 mL
                                                                    105 mL
   TF:
   IVF:
                                                                    496 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    260 mL
   Urine:
                                                                    685 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    111 mL
                                                                   -155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Elderly woman lying in bed, no acute distress
   HEENT Sclera anicteric, MMM
   Pulm Lungs with few bilateral rales (patient's cooperation is limited)
   CV Irregularly irregular S1 S2; +S3; no murmurs
   Abd Soft/ nt /nd +bowel sounds
   Extrem Warm, 2+ pitting edema in LE b/l, palpable distal pulses
   Neuro Opens eyes to voice, tracks, follows commands intermittently.
   Labs / Radiology
   336 K/uL
   10.5 g/dL
   87 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   4 mg/dL
   108 mEq/L
   138 mEq/L
   33.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
                             [**2108-7-11**]  05:43 AM
                             [**2108-7-12**]  06:04 AM
   WBC
   8.6
   6.3
   5.4
   Hct
   31.8
   31.4
   33.3
   Plt
   [**Telephone/Fax (3) 7705**]
   Cr
   0.4
   0.5
   0.5
   Glucose
   123
   92
   87
   Other labs: PT / PTT / INR:13.9/30.8/1.2, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   .
   Ucx
 mixed flora c/w skin contamination
   .
   BCx
 NGTD
   .
   CXR [**2108-7-12**]: Compared to [**7-11**]; L pleural effusion has decreased;
   Increased R fluid extending into minor fissure; b/l atelectasis.
   Continued increased pulm venous pressure, less than prior study.
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   .
   98 [**Month/Year (2) **] speaking female presents with lethargy and fever.
   .
   * Hypotension
 resolved. SBP 92-153 overnight.
   .
   * Hypoxia - CXR findings c/w persistent bilateral effusions + some
   pulmonary edema. Respiratory status stable.
   -F/u I/O
 goal 500cc-1L negative; pt currently auto-diuresing, will
   give lasix PRN
   .
   * C. diff
 Diarrhea has improved. Flexiseal removed. Only on PO
   Vancomycin.
   - continue PO vancomycin - Family cannot verify ?allergy in OMR.
   Systemic absorption is minimal
   - hold any antimotility agents
   .
   * Lethargy
 improved per son.  Much more awake and cooperative with
   physical exams.  Lethargy likely due to C. diff infection, dehydration
   from diarrhea.
   - continue vancomycin for C diff diarrhea
   - daily neuro exams, no localizing deficits, no imaging for now.
   .
   * Atrial fibrillation - Not on anticoagulation as an outpatient.  HR
   67-87.
   - Continue ASA daily
   .
   * Hypertension
 BP still between 90s-150s.
   -Monitor HR; if HR 80s-90s and BP remains 110s, will restart home
   atenolol.
   .
   # Dispo after hospitalization
 patient
s son asking for [**Name (NI) **]
   interpreter to help in discussion of what he should expect when he
   brings pt home.  Pt s/p R femur fx operated on by Dr. [**Last Name (STitle) 413**] a few
   months ago.
   -Ortho consulted to evaluate hip 2 view to determine weight bearing
   status.
   - SW consult
   - PT consult
   ICU Care
   Nutrition: regular, thickened
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-7-11**] 12:53 AM
   20 Gauge - [**2108-7-11**] 12:54 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:  Son
   [**Name (NI) 129**] status: Full code
   Disposition: called out to floor

2108-07-12 11:06:00 Physician Attending Progress Note
Chief Complaint: C diff colitis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Blood pressure stable. Not requiring fluid boluses. Diarrhea improved.
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Vancomycin
   Rash;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2108-7-9**] 11:40 PM
   Metronidazole - [**2108-7-11**] 07:38 AM
   Ceftriaxone - [**2108-7-11**] 07:38 AM
   Vancomycin - [**2108-7-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-7-12**] 07:39 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-12**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 81 (70 - 87) bpm
   BP: 139/56(77) {92/38(57) - 153/73(91)} mmHg
   RR: 31 (7 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 63 kg (admission): 56.1 kg
   Height: 63 Inch
                  Total In:
                                                                    796 mL
                                                                    105 mL
   PO:
                                                                    300 mL
                                                                    105 mL
   TF:
   IVF:
                                                                    496 mL
   Blood products:
   Total out:
                                                                    685 mL
                                                                    440 mL
   Urine:
                                                                    685 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    111 mL
                                                                   -335 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Tachypneic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, Loud, No(t) Widely split , No(t)
   Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : scattered, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 2+ edema, Left lower
   extremity edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess- language, Movement:
   Purposeful, No(t) Sedated, Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   336 K/uL
   87 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   4 mg/dL
   108 mEq/L
   138 mEq/L
   33.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2108-7-10**]  04:54 AM
                             [**2108-7-11**]  05:43 AM
                             [**2108-7-12**]  06:04 AM
   WBC
   8.6
   6.3
   5.4
   Hct
   31.8
   31.4
   33.3
   Plt
   [**Telephone/Fax (3) 7705**]
   Cr
   0.4
   0.5
   0.5
   Glucose
   123
   92
   87
   Other labs: PT / PTT / INR:13.9/30.8/1.2, Ca++:7.9 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 DIARRHEA
 URINARY TRACT INFECTION (UTI)
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
   RESPIRATORY DISTRESS
   ===========
   C diff responding to antibiotics. Diarrhea improving.
   CXR shows evidence of interstitial and alveolar edema, in addition to
   pleural effusions. She is in mild resp distress now. Would aim for
   negative fluid balance today of 0.5-1.0 L.  In the last few hours, she
   seems to be autodiuresing. Will follow this; if necessary, will
   supplement with lasix.
   Heart rate well controlled in afib.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2108-7-11**] 12:53 AM
   20 Gauge - [**2108-7-11**] 12:54 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes